US03968230
Preparation of Dextrorotatory 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione 1
A mixture of 17.7 g. of N-methyl isatoic anhydride, 11.5 g. of L-proline and 250 ml. of ethanol is heated on a steam bath for 3 hours and then concentrated to remove the ethanol. The residue is mixed with benzene and a small portion of water and the layers are separated. The benzene layer is washed twice with water and concentrated to remove the solvent. The residue is triturated with ether. The crystals which form are collected by filtration and recrystallized from ethyl acetate yielding the pure dextrorotatory isomer, melting point 120°-122°C., [α]D25 + 486°(1%, methanol).

reactant | N-methyl isatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
